US04469868
A mixture of 10.5 g (0.05 mol) of 7-chloro-5-ethyl 1,3-dimethylpyrazolo[4,3-d]pyrimidine (Ex. 11) 7.5 g (0.1 mol) of 1-amino-2-propanol and 8 ml of triethylamine in 75 ml of methylene dichloride is stirred at room temperature for 60 hours and filtered. The hygroscopic solid is stirred in 50 ml of saturated sodium bicarbonate solution to give 9.5 g (76%) of 1-[1,3-dimethyl-5-ethyl-1H-pyrazolo[4,3-d]pyrimidin-7-yl]amino-2-propanol, a hemihydrate melting at 116°-119° C. from ethyl acetate-pet ether.

reactant | 7-chloro-5-ethyl 1,3-dimethylpyrazolo[4,3-d]pyrimidine | 0.05 mol, 10.5 g | ClC=1C2=C(N=C(N1)CC)C(=NN2C)C | C9H11ClN4
reactant | 1-amino-2-propanol | NCC(C)O | C3H9NO
reactant | triethylamine | 8 ml | C(C)N(CC)CC | C6H15N
solvent | methylene dichloride | 75 ml | C(Cl)Cl | CH2Cl2
product | 1-[1,3-dimethyl-5-ethyl-1H-pyrazolo[4,3-d]pyrimidin-7-yl]amino-2-propanol | 9.5 g, 76% | CN1N=C(C=2N=C(N=C(C21)NCC(C)O)CC)C | C12H19N5O
